US08871756B2
tert-Butyl 3-[6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-4-ylamino]-azetidine-1-carboxylate
The title compound was prepared in analogy to tert-butyl 2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-ylamino]-methyl}-morpholine-4-carboxylate in Example 21-1 by using 4-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide and tert-butyl 3-aminoazetidine-1-carboxylate.

reactant | tert-butyl 2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-ylamino]-methyl}-morpholine-4-carboxylate | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC2CN(CCO2)C(=O)OC(C)(C)C)C)=O | C29H36N4O5S
reactant | 4-(4,6-dichloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)Cl)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C18H14Cl2N2O2S
reactant | tert-butyl 3-aminoazetidine-1-carboxylate | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | tert-Butyl 3-[6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinolin-4-ylamino]-azetidine-1-carboxylate | ClC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)NC2CN(C2)C(=O)OC(C)(C)C | C26H29ClN4O4S
